US04563449
To a solution of 7-[2allyloxyimino-2-{5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl}acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) in the reaction mixture prepared from sodium 2allyloxyimino-2-[5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl]acetate (syn isomer) (502 mg) and 7-amino-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrochloride (560 mg) according to a similar procedure to that of Example 1 was added dropwise trimethylsilyl bromide (3.22 g) under cooling in an ice bath and stirring, which was continued for one hour at room temperature. To the mixture was added acetic acid (0.5 ml) and the mixture was poured into diisopropyl ether (500 ml) under stirring. The resulting oily product was separated out by decantation and dissolved in water (50 ml). The aqueous solution was subjected to column chromatography on a non ionic adsorption resin "Diaion HP-20" (50 ml). The elution was carried out with water and 10% aqueous methanol. The fractions containing the object compound were collected, evaporated to remove methanol under reduced pressure and lyophilized to give 7-[2-allyloxyimino-2-(5-phosphonoamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate (syn isomer) (250 mg), mp. 175° to 181° C. (dec.).

reactant | 7-[2allyloxyimino-2-{5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl}acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)NP(=O)(OC)OC | C22H24N7O8PS2
reactant | sodium 2allyloxyimino-2-[5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl]acetate | 502 mg | C(C=C)ON=C(C(=O)[O-])C1=NSC(=N1)NP(=O)(OC)OC.[Na+]
reactant | 7-amino-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate dihydrochloride | 560 mg | Cl.Cl.NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O
reactant | trimethylsilyl bromide | 3.22 g | C[Si](C)(C)Br | C3H9BrSi
reactant | diisopropyl ether | 500 ml | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 7-[2-allyloxyimino-2-(5-phosphonoamino-1,2,4-thiadiazol-3-yl)acetamido]-3-(1-pyridiniomethyl)-3-cephem-4-carboxylate | 250 mg | C(C=C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)C1=NSC(=N1)NP(=O)(O)O | C20H20N7O8PS2
